US04335054
54.88 g (0.25 mol) of 4-bromobenzoyl chloride, 20.81 ml (0.31 mol) of acrylonitrile and 37.65 ml (0.25 mol) of N-benzyldimethylamine are added to 0.561 g (2.5 millimols) of palladium acetate in 500 ml of p-xylene. The mixture is stirred for 1.5 hours at 120° C. The crude product is distilled and recrystallised from cyclohexanone. 35 g (67% of theory) of 4-bromocinnamonitrile are obtained in the form of white flakes; melting point 105.7° C. Analysis for C9H4NBr: calculated C 51.96%, H 2.91%, N 6.73%, Br 38.40%; found C 51.93%, H 3.01%, N 6.69%, Br 38.35%.

reactant | 4-bromobenzoyl chloride | 0.25 mol, 54.88 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | acrylonitrile | 0.31 mol, 20.81 ml | C(C=C)#N | C3H3N
reactant | N-benzyldimethylamine | 0.25 mol, 37.65 ml | C(C1=CC=CC=C1)N(C)C | C9H13N
solvent | p-xylene | 500 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 2.5 millimols, 0.561 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-bromocinnamonitrile | 35 g, 67% | BrC1=CC=C(C=CC#N)C=C1 | C9H6BrN
